US07220856B2
Preparation of 7-Chloro-4-[4-(4-pyridinylaminocarbonyl)piperazin-1-yl]quinoline
At 0° C. under nitrogen, to a solution of 4-aminopyridine (114 mg, 1.21 mmol) and 4-nitrophenyl chloroformate (244 mg, 1.21 mmol) in dichloromethane (5 mL) is added diisopropyl(ethyl)amine dropwise (391 mg, 3.03 mmol). After 10 min, the ice bath is removed, and the reaction mixture is stirred at rt. for an additional hour. After removal of solvent under vacuum, EtOAc (5 mL), diisopropyl(ethyl)amine (261 mg, 2.02 mmol) and 7-chloro-4-(piperazin-1-yl)quinoline (250 mg, 1.01 mmol) are added. The resulting mixture is kept at reflux for about 5 hr, then cooled to rt, diluted with EtOAc (10 mL), and quenched with saturated sodium bicarbonate (5 mL). The aqueous solution is extracted with EtOAc (2×10 mL), and the combined organic phase is washed with brine (10 mL) and dried over sodium sulfate. Removal of solvent followed by purification through flash chromatography with CH2Cl2-MeOH affords the title product.

reactant | 4-aminopyridine | 1.21 mmol, 114 mg | NC1=CC=NC=C1 | C5H6N2
reactant | 4-nitrophenyl chloroformate | 1.21 mmol, 244 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | diisopropyl(ethyl)amine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | diisopropyl(ethyl)amine | 2.02 mmol, 261 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 7-chloro-4-(piperazin-1-yl)quinoline | 1.01 mmol, 250 mg | ClC1=CC=C2C(=CC=NC2=C1)N1CCNCC1 | C13H14ClN3
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
product | 7-Chloro-4-[4-(4-pyridinylaminocarbonyl)piperazin-1-yl]quinoline | ClC1=CC=C2C(=CC=NC2=C1)N1CCN(CC1)C(=O)NC1=CC=NC=C1 | C19H18ClN5O
